US08017630B2
2-(Dimethylamino-4-phenylcyclohexylidene)-N-[2-(1H-indol-3-yl)ethyl]acetamide
1-Hydroxybenzotriazole (182 mg, 1.35 mmol), tryptamine (108 mg, 0.676 mmol) and N-methylmorpholine (0.148 ml, 1.35 mmol) were added to a solution of (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride (200 mg, 0.676 mmol) in dry dimethylformamide (10 ml) under argon. The clear solution was cooled to 0° C. and dicyclohexylcarbodiimide (278 mg, 1.35 mmol) was added. The reaction mixture was stirred at RT for 3 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. The filtrate obtained was extracted with ether. 5 M sodium hydroxide solution (2 ml, 10 mmol) was added to the aqueous phase and the mixture was diluted with water (150 ml). The product thereby precipitated out as a colourless solid in a yield of 31% (84 mg).

reactant | 1-Hydroxybenzotriazole | 1.35 mmol, 182 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | tryptamine | 0.676 mmol, 108 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | N-methylmorpholine | 1.35 mmol, 0.148 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride | 0.676 mmol, 200 mg | Cl.CN(C1(CCC(CC1)=CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 1.35 mmol, 278 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 10 mmol, 5 M, 2 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2-(Dimethylamino-4-phenylcyclohexylidene)-N-[2-(1H-indol-3-yl)ethyl]acetamide | yield of 31% | CN(C)C1C(CCC(C1)C1=CC=CC=C1)=CC(=O)NCCC1=CNC2=CC=CC=C12 | C26H31N3O
